US06593322B1
A. (6-{[2-(4-Fluorophenyl)-6-hydroxy-(1,2,3,4-tetrahydroisoquinolyl)]methyl}indol-2-yl)-N,N-dimethylcarboxamide
The title compound was prepared as described in Example 34.B using 6-{[2-(4-fluorophenyl)-6-hydroxy-1,2,3,4-tetrahydroisoquinolyl]methyl}indole-2-carboxylic acid (0.25 g, 0.6 mmol) and 2.0 M solution of dimethylamine in tetrahydrofuran (1.0 mL, 2.0 mmol) to provide the title compound (0.127 g, 48% yield): 1H NMR (CDCl3) 9.05 (br, 1H), 7.52 (d, 1H), 7.26-6.76 (m, 7H), 6.61 (d, 1H), 6.57 (d, 1H), 6.50 (dd, 1H), 4.80 (t, 1H), 3.58 (m, 1H), 3.47 (m and s, 4H), 3.27 (dd, 1H), 3.20 (s, 3H), 3.03 (dd, 1H), 2.89 (m, 1H), 2.67 (dt, 1H); ES-MS m/z 444 [M+H]+.

reactant | 6-{[2-(4-fluorophenyl)-6-hydroxy-1,2,3,4-tetrahydroisoquinolyl]methyl}indole-2-carboxylic acid | 0.6 mmol, 0.25 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)O)CC1=CC=C2C=C(NC2=C1)C(=O)O | C25H21FN2O3
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 2.0 mmol, 1.0 mL | O1CCCC1 | C4H8O
product | (6-{[2-(4-Fluorophenyl)-6-hydroxy-(1,2,3,4-tetrahydroisoquinolyl)]methyl}indol-2-yl)-N,N-dimethylcarboxamide | 0.127 g, 48% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)O)CC1=CC=C2C=C(NC2=C1)C(=O)N(C)C | C27H26FN3O2
